US07319104B2
2-Bromo-4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenol
Similarly prepared from N-[2-(3-bromo-4-methoxyphenyl)ethyl]-5-ethylpyrimidin-2-amine and 4-trifluoromethoxy benzyl bromide.

reactant | N-[2-(3-bromo-4-methoxyphenyl)ethyl]-5-ethylpyrimidin-2-amine | BrC=1C=C(C=CC1OC)CCNC1=NC=C(C=N1)CC | C15H18BrN3O
reactant | 4-trifluoromethoxy benzyl bromide | FC(OC1=CC=C(CBr)C=C1)(F)F | C8H6BrF3O
product | 2-Bromo-4-(2-{(5-ethylpyrimidin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenol | BrC1=C(C=CC(=C1)CCN(CC1=CC=C(C=C1)OC(F)(F)F)C1=NC=C(C=N1)CC)O | C22H21BrF3N3O2
